US04472433
To a solution of potassium hydroxide (2.5 g.) in methanol (30 ml.) was dissolved 4-chlorobenzenethiol (6.5 g.), and methanol was distilled off to give potassium 4-chlorobenzenethiolate. To this product were added ethyl 2-(2-nitro-3-chlorophenyl)acetate (10 g.) and dimethylformamide (50 ml.) and stirred for 1.5 hours at 100° C. The reaction mixture was poured into water (300 ml.) and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and then evaporated under reduced pressure. The residue was recrystallized from a mixture of benzene and n-hexane to give yellow needles of the captioned compound (9.9 g.). mp 77° to 79° C.

reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
reactant | 4-chlorobenzenethiol | 6.5 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | methanol | 30 ml | CO | CH4O
product | potassium 4-chlorobenzenethiolate | ClC1=CC=C(C=C1)[S-].[K+] | InChI=1S/C6H5ClS.K/c7-5-1-3-6(8)4-2-5;/h1-4,8H;/q;+1/p-1
